US06455515B2
Preparation of 3-nitrosalicylic (1-phenylethylidene)hydrazide
A solution of 1.0 g (5 mmol) of 3-nitrosalicylohydrazide in 50 ml of anhydrous ethanol were treated with 0.6 g (5 mmol) of acetophenone and with a catalytic amount of p-toluenesulfonic acid. After the mixture had been stirred for 14 hours at approximately 20 to 25° C. and the solvent had been distilled off, 1.4 g of the title compound (90% of theory) were obtained as colorless crystals of m.p.: 163-168° C.

reactant | 3-nitrosalicylohydrazide | 5 mmol, 1.0 g | [N+](=O)([O-])C1=C(C(C(=O)NN)=CC=C1)O | C7H7N3O4
reactant | acetophenone | 5 mmol, 0.6 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-nitrosalicylic (1-phenylethylidene)hydrazide | 1.4 g, 90% | C1(=CC=CC=C1)C(C)=NNC(C=1C(O)=C(C=CC1)[N+](=O)[O-])=O | C15H13N3O4
